US06469017B1
To a stirring slurry of 2.69 g 7-methylxanthine (16.2 mmol) (Aldrich, Milwaukee, Wis.) in 50 ml methyl sulfoxide was added 0.39 g sodium hydride (16.2 mmol). After 1 hour, 2.85 g of 6-bromocapronitrile (16.2 mmol) (Lancaster Synthesis, Inc., Windham, N.H.) was added neat and the reaction was stirred for 72 h at room temperature. The mixture was then quenched with 150 mL water and extracted five times with 35 ml methyl acetate. The combined extracts were washed two times with 40 ml saturated aqueous sodium bicarbonate solution and two times with 40 ml saturated aqueous sodium chloride solution and then dried over sodium sulfate. After concentration under vacuum, the residual white powder was recrystallized with ethyl acetate-hexane solution to yield 0.64 g 3-(cyanopentyl)-7-methylxanthine (15% yield) as a white solid.

reactant | 7-methylxanthine | 16.2 mmol, 2.69 g | CN1C=NC=2NC(NC(C12)=O)=O | C6H6N4O2
reactant | sodium hydride | 16.2 mmol, 0.39 g | [H-].[Na+]
reactant | 6-bromocapronitrile | 16.2 mmol, 2.85 g | BrCCCCCC#N | C6H10BrN
solvent | methyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 3-(cyanopentyl)-7-methylxanthine | 0.64 g, 15% yield | C(#N)CCCCCN1C(NC(C=2N(C=NC12)C)=O)=O | C12H15N5O2
